US08476301B2
Methyl 3-chloro-2-methylbenzoate
Iodomethane (1.96 ml, 31.5 mmol) was added to a mixture of 3-chloro-2-methylbenzoic acid (3.58 g, 21 mmol), potassium carbonate (5.8 g, 42 mmol) and N,N-dimethylformamide (35.9 ml), followed by stirring at mom temperature for 18 hours and 30 minutes. Water and ethyl acetate were added to the reaction liquid, and the organic layer was extracted. The organic layer was sequentially washed with a saturated aqueous ammonium chloride solution and brine, and then dried over sodium sulfate, filtered and concentrated. The residue was purified by silica gel column chromatography (elution solvent: heptane/ethyl acetate) to give the title compound (3.67 g, yield: 97%).

reactant | Iodomethane | 31.5 mmol, 1.96 ml | IC | CH3I
reactant | 3-chloro-2-methylbenzoic acid | 21 mmol, 3.58 g | ClC=1C(=C(C(=O)O)C=CC1)C | C8H7ClO2
reactant | potassium carbonate | 42 mmol, 5.8 g | C([O-])([O-])=O.[K+].[K+]
reactant | N,N-dimethylformamide | 35.9 ml | CN(C=O)C | C3H7NO
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | Water | O | H2O
product | Methyl 3-chloro-2-methylbenzoate | 3.67 g, yield: 97% | ClC=1C(=C(C(=O)OC)C=CC1)C | C9H9ClO2
